US04483986
A solution of 3.91 g. (0.0112 m.) of 3-(isopropylsulfonyl)amino-4-nitrobenzophenone in 60 ml. of tetrahydrofuran (THF) was added dropwise over a period of 30 minutes to a stirred solution of 23.7 g. of sodium hydrosulfite in 200 ml. of water. After 60 minutes of additional stirring, solid sodium chloride was added and the layers were separated. The aqueous layer was extracted with THF, and the combined THF extracts were washed with a saturated solution of sodium chloride. Evaporation of the THF gave crude 3-(isopropylsulfonyl)amino-4-aminobenzophenone which was used without further purification in the subsequent cyclization. A small sample was crystallized from isopropanol several times to give the pure compound as colorless blocks, m.p. about 143°-145° C.

reactant | 3-(isopropylsulfonyl)amino-4-nitrobenzophenone | C(C)(C)S(=O)(=O)NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1[N+](=O)[O-] | C16H16N2O5S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
product | 3-(isopropylsulfonyl)amino-4-aminobenzophenone | C(C)(C)S(=O)(=O)NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N | C16H18N2O3S
